US09359359B2
Step 2 1-(3-((tert-Butyldimethylsilyl)oxy)propyl-8-(3-chlorophenoxy)-7-isopentyl-3-methyl-1H-purine-2,6(3H,7H)-dione (0.55 g, 1.03 mmol) was dissolved in ethanol (10 mL) and 6N HCl (2 mL) was added and the reaction was stirred at room temperature for 1 h. The reaction was diluted with water (100 mL) and extracted with DCM (3×75 mL). The combined extracted were dried with magnesium sulfate, filtered and evaporated under reduced pressure to leave a golden oil. The oil was purified using a 24 g silica gel flash column eluted with 50% ethyl acetate/hexanes to give 8-(3-chlorophenoxy)-1-(3-hydroxypropyl)-7-isopentyl-3-methyl-1H-purine-2,6(3H,7H)-dione (0.21 g, 49% yield) as a white solid. LCMS retention time=3.859 min and 98% purity, LCMS MH+=421. 1H NMR (CDCl3) δ 7.35-7.38 (m, 2H), 7.24-7.28 (m, 1H), 7.18-7.25 (m, 1H), 4.27 (t, 2H, J=8 Hz), 4.20 (t, 2H, J=8 Hz), 3.52-3.58 (m, 3H), 3.47 (s, 3H), 1.86-1.94 (m, 2H), 1.70-1.78 (m, 2H), 1.59-1.69 (m, 1H), 0.98 (d, 6H, J=8 Hz).

reactant | 3-((tert-Butyldimethylsilyl)oxy)propyl-8-(3-chlorophenoxy)-7-isopentyl-3-methyl-1H-purine-2,6(3H,7H)-dione | 1.03 mmol, 0.55 g | [Si](C)(C)(C(C)(C)C)OCCCN1C(N(C=2N=C(N(C2C1=O)CCC(C)C)OC1=CC(=CC=C1)Cl)C)=O | C26H39ClN4O4Si
reactant | HCl | 6N, 2 mL | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 100 mL | O | H2O
product | 8-(3-chlorophenoxy)-1-(3-hydroxypropyl)-7-isopentyl-3-methyl-1H-purine-2,6(3H,7H)-dione | 0.21 g, 49% yield | ClC=1C=C(OC2=NC=3N(C(N(C(C3N2CCC(C)C)=O)CCCO)=O)C)C=CC1 | C20H25ClN4O4
